US07485634B2
Preparation of 3-(4-fluorobenzoyl)-8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
The title compound was prepared in a manner similar to that described in Example 2A by using 8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester and 4-fluorobenzoyl chloride; MS (ES): 424 (MH+).

reactant | 8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNCCC2=C1NC=1C=C(C=CC21)[N+](=O)[O-] | C15H15N3O4
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 3-(4-fluorobenzoyl)-8-nitro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=C(C=CC21)[N+](=O)[O-])C(C2=CC=C(C=C2)F)=O | C22H18FN3O5
